US07338958B2
n) Production of 5-bromo-2-[4-(methylsulfanyl)phenylamino]pyrimidin-4-ol
9.8 g of 5-bromo-2-chloropyrimidin-4-ol is suspended in 200 ml of acetonitrile. After 7.2 g of 4-methylsulfanyl-phenylamine is added, 12 ml of a 4N solution of HCl in dioxane is added in drops while being stirred vigorously. After drop-by-drop addition of 5 ml of water, the mixture is stirred for 3 hours at 78° C. and for 2 days at room temperature. The mixture is cooled in an ice bath and suctioned off. The filter cake is washed twice with acetonitrile and dried. 15.2 g (92.7% of theory) of the product with a melting point of 238° C. (decomposition) is obtained.

reactant | 5-bromo-2-chloropyrimidin-4-ol | 9.8 g | BrC=1C(=NC(=NC1)Cl)O | C4H2BrClN2O
reactant | 4-methylsulfanyl-phenylamine | 7.2 g | CSC1=CC=C(C=C1)N | C7H9NS
reactant | HCl | Cl | ClH
reactant | water | 5 ml | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-bromo-2-[4-(methylsulfanyl)phenylamino]pyrimidin-4-ol | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)SC)O | C11H10BrN3OS
